US04709032
In 30 ml of a 60% methanol/water solution (volume ratio) was dissolved 2 g of N-(3-amino-2-phenylpropyl)-5-isoquinolinesulfonamide obtained Referential example 2, 2.05 g of S-methylisothiourea sulfate and 1.67 g of potassium carbonate, and the mixed solution was heated at reflux for two hours. After the reflux, the methanol was distilled therefrom under reduced pressure and the white crystalline residue the obtained was separated by filtration under reduced pressure. The residue was recrystallized from methanol to give 1.93 g of N-(3-guanidino-2-phenylpropyl)-5-isoquinolinesulfonamide, i.e., Compound (31) in a yield of 86%.

reactant | N-(3-amino-2-phenylpropyl)-5-isoquinolinesulfonamide | 2 g | NCC(CNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)C1=CC=CC=C1 | C18H19N3O2S
reactant | S-methylisothiourea sulfate | 2.05 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | potassium carbonate | 1.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | CO.O
product | N-(3-guanidino-2-phenylpropyl)-5-isoquinolinesulfonamide | 1.93 g, yield of 86% | N(C(=N)N)CC(CNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)C1=CC=CC=C1 | C19H21N5O2S
